US07423158B2
A stirred solution of 2-fluoro-5-iodo-benzaldehyde (0.714 g, 2.86 mmol) in dry THF at −78° C. under nitrogen was treated over 10 min with 0.5 M 3-butenyl magnesium bromide in THF (6.85 mL, 3.43 mmol), stirred for 0.5 h, allowed to warm to −30° C. over 1 h, quenched with saturated ammonium chloride, diluted with water and extracted with ethyl acetate. The extracts were combined, dried over MgSO4 and concentrated in vacuo. Purification of the resultant residue by flash chromatography (5% to 10% ethyl acetate/petroleum ether) gave 1-(2-fluoro-5-iodo-phenyl)pent-4-en-1-ol as a clear oil, 565 mg (65% yield). A portion of this oil (0.25 g, 0.82 mmol) was dissolved in dry methylene chloride, cooled to 0° C., treated with boron triflouride etherate (0.1 mL, 0.81 mmol), stirred for 15 minutes under a nitrogen atmosphere, warmed to room temperature for 1 h, and quenched with saturated sodium bicarbonate. The reaction mixture was partitioned between methylene chloride and H2O; and the aqueous phase was extracted with methylene chloride. The organic phase and the extracts were combined, washed with brine, dried over MgSO4 and concentrated in vacuo to give 1-fluoro-4-iodo-2-pent-4-en-1-ylbenzene as a clear oil, 0.18 g (76% yield).

reactant | 2-fluoro-5-iodo-benzaldehyde | 2.86 mmol, 0.714 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 3-butenyl magnesium bromide | 0.5 M | C(CC=C)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 3.43 mmol, 6.85 mL | C1CCOC1 | C4H8O
product | 1-(2-fluoro-5-iodo-phenyl)pent-4-en-1-ol | 65% yield | FC1=C(C=C(C=C1)I)C(CCC=C)O | C11H12FIO
